US04446325
100 mg of 50% sodium hydride was added to a mixture of 20 g of 2,2-ethylenedioxypropanol and 100 ml of benzene, and 20 g of diketene was added dropwise to the mixture while refluxing the mixture. After refluxing the mixture for 2 hours, the solvent was distilled off and the resulting residue was distilled under reduced pressure to obtain 21.5 g (70% yield) of 2,2-ethylenedioxypropyl acetoacetate as a colorless oil having a boiling point of 90° C. (6 mmHg).

reactant | 2,2-ethylenedioxypropanol | 20 g | C1OC(CO)(C)OC1 | C5H10O3
reactant | diketene | 20 g | C=C1CC(=O)O1 | C4H4O2
catalyst | sodium hydride | 100 mg | [H-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2,2-ethylenedioxypropyl acetoacetate | 21.5 g, 70% yield | C(CC(=O)C)(=O)OCC1(C)OCCO1 | C9H14O5
